US09388197B2
A.2.4.2. Synthesis of 2-(3,5-dichloro-2-((hydroxyimino)methyl)phenoxy)ethyl acetate
A soln. of 2-(3,5-dichloro-2-formylphenoxy)ethyl acetate (1.48 mmol) in 2.5 mL DMF was cooled to 0° C. and NaOAc (1.62 mmol) followed by hydroxylamine HCl (1.62 mmol) were added. The ice bath was removed and the reaction mixture was stirred at RT for 1.5 h. The mixture was diluted with EtOAc and washed once with water and brine. The comb. org. layers were dried over MgSO4 and conc. in vacuo. Purification with CC using Hept and EtOAc gives the desired compound as white solid.

reactant | 2-(3,5-dichloro-2-formylphenoxy)ethyl acetate | 1.48 mmol | C(C)(=O)OCCOC1=C(C(=CC(=C1)Cl)Cl)C=O | C11H10Cl2O4
reactant | NaOAc | 1.62 mmol | CC(=O)[O-].[Na+]
reactant | hydroxylamine HCl | 1.62 mmol | Cl.NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 2-(3,5-dichloro-2-((hydroxyimino)methyl)phenoxy)ethyl acetate | C(C)(=O)OCCOC1=C(C(=CC(=C1)Cl)Cl)C=NO | C11H11Cl2NO4
